US06353006B1
2-Methyl-2-hydroxypropylamine was reacted with SOCl2 followed by 2,3-dichlorophenyl isothiocyanate according to Method C2f to afford 2-(2,3-dichlorophenylimino)-5,5-dimethyl-1,3-thiazolidine. 2-(2,3-Dichlorophenylimino)-5,5-dimethyl-1,3-thiazolidine was reacted with ethylene oxide according to Method B5b to afford 2-(2,3-dichlorophenylimino)-5,5-dimethyl-1,3-thiazolidine HCl salt.

reactant | 2-Methyl-2-hydroxypropylamine | CC(CN)(C)O | C4H11NO
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | 2,3-dichlorophenyl isothiocyanate | ClC1=C(C=CC=C1Cl)N=C=S | C7H3Cl2NS
product | 2-(2,3-dichlorophenylimino)-5,5-dimethyl-1,3-thiazolidine | ClC1=C(C=CC=C1Cl)N=C1SC(CN1)(C)C | C11H12Cl2N2S
